US06548498B1
4-(4-Methylpiperazin-1-yl)-N-(4-morpholinophenyl)indan-2-carboxamide
A mixture of 4-amino-N-(4-morpholinophenyl)indan-2-carboxamide (1.1 g, 3 mmol), N-methyl-bis-(2-chloroethyl)amine hydrochloride (2.0 g, 10 mmol) and sodium hydrogen carbonate (8.0 g, 95 mmol) in 1-butanol (100 mL) was stirred overnight at 120° C. The mixture was filtered and the solvent was evaporated in vacuo. The crude residue (oil) was purified on a silica gel column using methylene chloride as the eluent to afford 100 mg of the title compound: mp 248-249° C.; EIMS (70 eV) m/z (relative intensity) 420 (47, M+).

reactant | 4-amino-N-(4-morpholinophenyl)indan-2-carboxamide | 3 mmol, 1.1 g | NC1=C2CC(CC2=CC=C1)C(=O)NC1=CC=C(C=C1)N1CCOCC1 | C20H23N3O2
reactant | N-methyl-bis-(2-chloroethyl)amine hydrochloride | 10 mmol, 2.0 g | Cl.CN(CCCl)CCCl
reactant | sodium hydrogen carbonate | 95 mmol, 8.0 g | C(O)([O-])=O.[Na+]
solvent | 1-butanol | 100 mL | C(CCC)O | C4H10O
product | 4-(4-Methylpiperazin-1-yl)-N-(4-morpholinophenyl)indan-2-carboxamide | 100 mg | CN1CCN(CC1)C1=C2CC(CC2=CC=C1)C(=O)NC1=CC=C(C=C1)N1CCOCC1 | C25H32N4O2
